Name:  ___                       Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
almond / lisinopril / pecan nut
 
Attending: ___.
 
Chief Complaint:
dyspnea
 
Major Surgical or Invasive Procedure:
Thoracentesis ___

 
History of Present Illness:
Ms. ___ is a ___ female with the past medical history
relevant for R apical lung nodule (with recent ___ guided biopsy
___, HTN, stroke who represented to the ED with dyspnea,
with CT significant for large bilateral pleural effusions.

She was initially evaluated on ___, after being sent in 
from
thoracic surgery clinic with a small pneumothorax and pleural
effusion. At that time, she reported being symptom free at rest,
however, with dyspnea on exertion. She was observed in the ED 
and
subsequently discharged with follow up.

She represented on ___ with shortness as breath and
inability to take a deep inspiration. She described the 
shortness
of breath as worse with exertion and without associated pain. 
She
otherwise denies fevers, chills, cough, sputum production, chest
pain, abdominal pain, myalgia, or arthralgias.

In the ED, initial VS were 97.4 108 108/66 22 98% RA.
Labs notable for CBC WNL, BMP with HCO3 of 21, BUN/CR of ___.
___ WNL. Troponin negative x 2. 
CTA negative for pulmonary embolus but significant for new
bilateral pleural effusions moderate to large in size and
unchanged right apical mass. 
She was found to have increased work of breathing and
subsequently admitted to medicine.

Upon arrival to the floor the patient appears tachypnea.  She is
able to converse but only in shortened sentences.  She reports
that ever since her biopsy, she has had very significant 
coughing
spells.  Following coughing spells, she reports she is unable to
catch her breath and she is gasping for air.  She denies any
escalation in her symptoms over the last few days, but reports
that her dyspnea is very significant, especially in the presence
of her coughing following exertion.  She otherwise denies 
fevers,
chills, chest pain, abdominal pain, dysuria.  She endorses
nausea, but denies vomiting.  She reports decreased appetite.

ROS: Pertinent positives and negatives as noted in the HPI.  All
other systems were reviewed and are negative. 

 
Past Medical History:
- R apical lung nodule (s/p ___ biopsy ___ -> mucinous 
adenocarcinoma 
- Hypertension
- Hearing loss
- HLD
- H/o stroke - right posterior cerebral artery distribution
infarct in the right occipital lobe as well as medial temporal
region.    
- Fatty liver disease
- h/o depression
- Prior hysterectomy
 
Social History:
___
Family History:
Mother with history of MI at ___, father with history of HTN,
denies FH of lung disease
 
Physical Exam:
Admission physical exam
========================

VITALS: Afebrile and vital signs stable (see eFlowsheet)
GENERAL: Alert, tachypnea when speaking
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
Mucous membranes moist
CV: Heart regular, no S3, no S4.  No JVD.
RESP: Lungs with decreased breath sounds in the bilateral bases,
no crackles or wheezes
GI: Abdomen soft, non-distended, non-tender to palpation
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
EXT: warm, well perfused
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs
PSYCH: pleasant, appropriate affect

Discharge physical exam
========================

VITALS: Afebrile and vital signs stable (see eFlowsheet) 
Notably, no longer requires O2
GENERAL: Alert and in no apparent distress
CV: Heart regular, II/VI murmur heard throughout the precordium
but best at apex .
RESP: R base with diminished air movement, L base with minimal
inspiratory crackles. 
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel
sounds present.  
MSK: No ___ edema
SKIN: No rashes or ulcerations noted 

 
Pertinent Results:
ADMISSION LABS:
===============

___ 03:10PM BLOOD WBC-5.6 RBC-3.68* Hgb-11.4 Hct-35.0 
MCV-95 MCH-31.0 MCHC-32.6 RDW-14.3 RDWSD-50.2* Plt ___
___ 03:10PM BLOOD Neuts-69.6 Lymphs-13.6* Monos-9.8 Eos-6.3 
Baso-0.5 Im ___ AbsNeut-3.90 AbsLymp-0.76* AbsMono-0.55 
AbsEos-0.35 AbsBaso-0.03
___ 03:10PM BLOOD ___ PTT-30.3 ___
___ 03:10PM BLOOD Glucose-95 UreaN-16 Creat-0.9 Na-142 
K-4.5 Cl-107 HCO3-21* AnGap-14
___ 03:10PM BLOOD cTropnT-<0.01
___ 09:24PM BLOOD cTropnT-<0.01

PERTINENT LABS:
===============

___ 12:50PM BLOOD proBNP-2582*
___ 07:25AM BLOOD TotProt-5.8* Albumin-3.6 Globuln-2.2 
Calcium-8.8 Phos-4.2 Mg-2.1 Iron-47 Cholest-124
___ 07:25AM BLOOD calTIBC-233* Ferritn-109 TRF-179*
___ 07:25AM BLOOD %HbA1c-5.1 eAG-100
___:25AM BLOOD Triglyc-67 HDL-64 CHOL/HD-1.9 LDLcalc-47
___ 07:25AM BLOOD TSH-1.3
___ 05:26PM BLOOD pH-7.37 Comment-PLEURAL FL

PERTINENT STUDIES:
==================

Cardiac perfusion nuclear pharmacologic stress ___:
IMPRESSION:
 1. Fixed, medium sized, moderate severity perfusion defect 
involving the LAD territory.
 2. Fixed, medium sized, moderate severity perfusion defect 
involving the RCA territory.
 3. Normal left ventricular cavity size.  Severe systolic 
dysfunction with regional dysfunction of the LAD and RCA 
territories.  

INTERPRETATION: This ___ year old woman with h/o HTN, HL, stroke 
and
CHF with LVEF of 30% was referred to the lab for evaluation. She 
was
infused with 0.142 mg/kg/min of dipyridamole over 4 minutes. No 
chest,
arm, neck or back discomfort reported. No significant ST segment 
changes
noticed. Rhythm was sinus with rare isolated APBs and VPBs. 
Appropriate
hemodynamic response to the infusion. Aminophylline 125 mg IV 
given to
the patient 2 minutes post-infusion.
IMPRESSION : No anginal symptoms or ST segment changes. Nuclear 
report
sent separately.

TTE ___:
Conclusions
The left atrium is normal in size. No atrial septal defect is 
seen by 2D or color Doppler. Left ventricular wall thicknesses 
are normal. The left ventricular cavity size is normal. Overall 
left ventricular systolic function is moderately depressed 
(LVEF= 30%) with global hypokinesis and regional inferior 
akinesis. No masses or thrombi are seen in the left ventricle. 
There is no ventricular septal defect. Right ventricular chamber 
size is normal with borderline normal free wall function. The 
ascending aorta is mildly dilated. The aortic valve leaflets (3) 
are mildly thickened. There is probably moderate (low gradient) 
aortic valve stenosis (valve area 1.0-1.2cm2). Mild (1+) aortic 
regurgitation is seen. The mitral valve leaflets are mildly 
thickened. Moderate (2+) mitral regurgitation is seen. The 
tricuspid valve leaflets are mildly thickened. There is mild 
pulmonary artery systolic hypertension. There is a very small 
pericardial effusion. There are no echocardiographic signs of 
tamponade. 

 
Brief Hospital Course:
___ with history of HTN/HLD, prior stroke and recent diagnosis 
of an apical mucinous lung adenocarcinoma admitted with 
shortness of breath found to have large bilateral pleural 
effusions. Symptoms improved markedly with a therapeutic 
thoracentesis and gentle diuresis. Effusions were transudative 
by Light's criteria, but the amount of blood was more consistent 
with an exudate. TTE revealed new LVEF of 30%, so cardiology was 
consulted and a pMIBI was performed, which revealed 2 fixed 
perfusion defects, indicating ischemic cardiomyopathy. Her 
cardiac regimen was optimized and she was discharged home.

TRANSITIONAL ISSUES:
====================
- Pleural fluid cytology pending at the time of discharge, 
results may affect treatment planning for CyberKnife vs. 
conventional radiation. Dr. ___, will follow-up on 
cytology results.
- Patient's cardiac medical regimen at the time of discharge: 
Metoprolol 25 mg XL QD, Atorvastatin 40 mg QHS, Losartan 12.5 mg 
QD, Aspirin 325 mg QD. 
- The patient had several nocturnal desaturations during this 
admission and endorsed daytime somnolence. An outpatient sleep 
study to exclude OSA could be pursued as an outpatient. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atorvastatin 40 mg PO QPM 
2. Dexamethasone 4 mg PO ASDIR cyberknife treatment 
3. LORazepam 0.5 mg PO ASDIR cyberknife treatment 
4. Losartan Potassium 12.5 mg PO DAILY 
5. Mirtazapine 7.5 mg PO QHS 
6. Sertraline 25 mg PO DAILY 
7. Aspirin 325 mg PO DAILY 

 
Discharge Medications:
1.  Metoprolol Succinate XL 25 mg PO DAILY 
RX *metoprolol succinate 25 mg 1 tablet(s) by mouth once a day 
Disp #*30 Tablet Refills:*3 
2.  Aspirin 325 mg PO DAILY  
3.  Atorvastatin 40 mg PO QPM  
4.  Dexamethasone 4 mg PO ASDIR cyberknife treatment  
5.  LORazepam 0.5 mg PO ASDIR cyberknife treatment  
6.  Losartan Potassium 12.5 mg PO DAILY  
7.  Mirtazapine 7.5 mg PO QHS  
8.  Sertraline 25 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY: Pleural effusion
Acute systolic congestive heart failure, Ischemic cardiomyopathy 

SECONDARY: History of stroke, mucinous adenocarcinoma of the 
lung, hypertension, hyperlipidemia

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___,

It was our pleasure caring for you at ___ 
___.  You were admitted to the hospital with fluid in 
the lungs. You had this fluid drained and your symptoms 
improved. Additionally you had an ultrasound of your heart and a 
stress test performed, which showed diminished cardiac function. 
We believe this is due to having had a "silent" heart attack at 
some point in the past.  Our cardilogists evaluated you and you 
were started on new medications to protect your heart.  You will 
need to follow-up with a cardiologist in the clinic. 

It was a pleasure participating in your care.
 
Followup Instructions:
___